US05276046
Potassium t-butoxide (3.7 g, 33 mmol) was added, in one portion, to a stirred solution of 2-(pyrid-3-yl)cyclohexanone (5.3 g, 30 mmol) in dimethylformamide (60 ml) at 0° C. After 60 minutes the dark red solution was treated with di-t-butyl diazodicarboxylate (7.6 g, 33 mmol) over 5 minutes. The mixture was then allowed to warm to 20° C. over 1 hour, poured into saturated ammonium chloride solution (50 ml) and extracted with ethyl acetate (2×25 ml). The combined organic extracts were successively washed with water (20 ml) and saturated brine (20 ml) and dried over sodium sulphate. Concentration in vacuo gave the crude product which was recrystallised from petroleum ether (60°-80° C.; 150 ml) to give 2-(N,N'-di-t-butoxycarbonylhydrazino)-2-(pyrid-3-yl)cyclohexanone (7.1 g, 17.5 mmol), m.p. 123°-125° C.;

reactant | Potassium t-butoxide | 33 mmol, 3.7 g | CC(C)([O-])C.[K+]
reactant | 2-(pyrid-3-yl)cyclohexanone | 30 mmol, 5.3 g | N1=CC(=CC=C1)C1C(CCCC1)=O | C11H13NO
reactant | di-t-butyl diazodicarboxylate | 33 mmol, 7.6 g | [N+](=[N-])(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(N,N'-di-t-butoxycarbonylhydrazino)-2-(pyrid-3-yl)cyclohexanone | 17.5 mmol, 7.1 g | C(C)(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)C1(C(CCCC1)=O)C=1C=NC=CC1 | C21H31N3O5
